US04283408
In 10 ml of ethanol were dissolved 1 g of methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate and 0.69 g p-aminobenzenesulfonamide and after causing reaction for 48 hours at room temperature, the solvent was distilled off under reduced pressure. Then, the residue formed was purified by a silica gel column chromatography using a mixture of chloroform and methanol (20:1→10:1) to provide 1.2 g N-(p-aminobenzenesulfonyl)-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine as an amorphous solid. The product shows the following physicochemical properties.

reactant | methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate | 1 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
reactant | p-aminobenzenesulfonamide | 0.69 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(p-aminobenzenesulfonyl)-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine | 1.2 g | NC1=CC=C(C=C1)S(=O)(=O)NC(CCSCC=1N=C(SC1)NC(=N)N)=N | C14H19N7O2S3
